US07973078B2
707 mg of N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine was dissolved in 8.00 mL of DMF, and 302 mg of 4-methoxybenzylamine, 324 mg of HOBt, and 460 mg of WSC were added thereto, followed by stirring at room temperature overnight. To the reaction liquid was added water, followed by extraction with ethyl acetate, and the organic layer was washed with saturated brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=4:1) to obtain 881 mg of N2-(3-chloro-2-methylphenyl)-N-(4-methoxybenzyl)-N2-[(4-methylphenyl)sulfonyl] glycinamide.

reactant | N-(3-chloro-2-methylphenyl)-N-[(4-methylphenyl)sulfonyl]glycine | 707 mg | ClC=1C(=C(C=CC1)N(CC(=O)O)S(=O)(=O)C1=CC=C(C=C1)C)C | C16H16ClNO4S
reactant | 4-methoxybenzylamine | 302 mg | COC1=CC=C(CN)C=C1 | C8H11NO
reactant | HOBt | 324 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | WSC | 460 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 8.00 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N2-(3-chloro-2-methylphenyl)-N-(4-methoxybenzyl)-N2-[(4-methylphenyl)sulfonyl] glycinamide | 881 mg | ClC=1C(=C(C=CC1)N(CC(=O)NCC1=CC=C(C=C1)OC)S(=O)(=O)C1=CC=C(C=C1)C)C | C24H25ClN2O4S
